US08242130B2
Methyl 4-methoxyphenylacetate (5.58 g, 0.031 mol) was added to anhydrous toluene (75 mL) and the reaction mixture was kept at −70° C. Diisobutylaluminum hydride (1.0 M, 34 mL) in toluene was added over 25 min. The reaction mixture was stirred for another 20 min then a sodium-potassium-tartrate solution (100 mL) was added to the reaction mixture. The organic layer was separated and the water layer was extracted with ether. The combined organic layers were washed with water, brine, and dried over sodium sulfate. The crude compound was purified by column chromatography (hexane:EtOAc 4:1) to yield 4-methoxyphenylacetaldehyde (0.90 g, 19.3%). A mixture of 4-methoxyphenylacetaldehyde (0.40 g, 2.66 mmol), morpholine (0.232 g, 2.66 mmol), and benzotriazole (0.304 g, 2.56 mmol) in ether (20 mL) with 3 Å molecular sieves was stirred at rt overnight. The molecular sieves were removed by filtration and the solvent was removed. The crude product was used for next step reaction without further purification. Sodium hydride (0.125 g, 5.2 mmol, 60% in mineral oil) was added to the crude product with anhydrous THF (20 mL). The reaction mixture was stirred at reflux for 3 h. THF was removed and the residue was poured into cold water (60 mL) and extracted with hexane (2×80 mL). The organic layer was dried over sodium sulfate and the solvent was removed to give the enamine (0.60 g). 2-Chloropyridine-3-carbonylchloride (0.44 g, 2.5 mmol) in dry DCM (5 mL) was added to the enamine (0.60 g), followed by triethylamine (0.5 mL) in anhydrous DCM (15 mL) at −70° C. The reaction mixture was allowed to warm to rt overnight. The mixture was then poured into water, and the organic phase was washed with sodium bicarbonate and brine. The crude residue was purified by column chromatography (EtOAc:MeOH 5:1) to the desired intermediate (0.45 g). The intermediate (0.45 g, 1.25 mmol) was stirred in HCl (8.0 mL, 6 N) overnight at rt. The desired compound was filtered off and washed with large amounts of water. The crude product (0.24 g, 1.18 mmol) was mixed with pyridine hydrochloride (1.4 g) and heated to 180-190° C. for 3 h. The mixture was poured into water and stirred for 30 min. The solid was filtered off and further washed with water and hexane to give 140 mg of 3-(4-hydroxyphenyl)-4H-pyrano[2,3-b]pyridine-4-one (49.6%). MS (ES) m/z: 239.90; Mp. 262-264° C.

reactant | Methyl 4-methoxyphenylacetate | 0.031 mol, 5.58 g | COC1=CC=C(C=C1)CC(=O)OC | C10H12O3
reactant | Diisobutylaluminum hydride | 1.0 M, 34 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium-potassium-tartrate | 100 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
product | 4-methoxyphenylacetaldehyde | 0.90 g, 19.3% | COC1=CC=C(C=C1)CC=O | C9H10O2
